* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 31.580092118990123
Fd1_1 0 s1 V1 1579.0046059495062
Gr1_1_1 0 s1 x1_a1 0 1.1684312293956506e+18
Gr2_1_1 0 s1 x2_a1 0 -8.018311966518747e+17
Gr3_1_1 0 s1 x3_a1 0 -4.3129310090227155e+17
Gr4_re_1_1 0 s1 x4_re_a1 0 3904661328643.8574
Gr4_im_1_1 0 s1 x4_im_a1 0 -8675258867210.561
Gr5_re_1_1 0 s1 x5_re_a1 0 11914384640156.36
Gr5_im_1_1 0 s1 x5_im_a1 0 914093030502.692
Gr6_1_1 0 s1 x6_a1 0 2.2670057739669776e+17
Gr7_re_1_1 0 s1 x7_re_a1 0 6160787656675818.0
Gr7_im_1_1 0 s1 x7_im_a1 0 -5860346421713466.0
Gr8_re_1_1 0 s1 x8_re_a1 0 -3077597858609280.5
Gr8_im_1_1 0 s1 x8_im_a1 0 -426796822351439.6
Gr9_1_1 0 s1 x9_a1 0 1.539046087208144e+20
Gr10_1_1 0 s1 x10_a1 0 -6.59382523984056e+18
Gr11_1_1 0 s1 x11_a1 0 -1.9275485713313403e+19
Gr12_1_1 0 s1 x12_a1 0 4.359268788669492e+19
Gr13_1_1 0 s1 x13_a1 0 6.653639496368634e+17
Gr14_1_1 0 s1 x14_a1 0 -1.864234895791456e+20
Gr15_1_1 0 s1 x15_a1 0 -2.0722346955307168e+19
Gr16_1_1 0 s1 x16_a1 0 -5.204099671605345e+18
Gr17_1_1 0 s1 x17_a1 0 -3.067493728764874e+18
Gr18_1_1 0 s1 x18_a1 0 7.205411698705064e+18
Gr19_1_1 0 s1 x19_a1 0 -2833976717825069.5
Gr20_1_1 0 s1 x20_a1 0 5.501359082086343e+19
Gr21_1_1 0 s1 x21_a1 0 -7.694635457926357e+19
Gr22_1_1 0 s1 x22_a1 0 5.0427304182724305e+19
Gr23_1_1 0 s1 x23_a1 0 -3.3495442016963502e+19
Gr24_1_1 0 s1 x24_a1 0 4.3153216611141616e+19
Gr25_1_1 0 s1 x25_a1 0 -8.51797790737934e+18
Gr26_1_1 0 s1 x26_a1 0 3.246180346368681e+18
Gr27_1_1 0 s1 x27_a1 0 -467123601305286.6
Gr28_1_1 0 s1 x28_a1 0 3232807739689886.0
Gr29_1_1 0 s1 x29_a1 0 1622446914655270.5
Gr30_1_1 0 s1 x30_a1 0 -2.6218044119511117e+17
Gr31_1_1 0 s1 x31_a1 0 3.816747758027714e+18
Gr32_1_1 0 s1 x32_a1 0 -6.862755670375878e+17
Gd1_2 0 s1 p2 0 25.22426985742518
Fd1_2 0 s1 V2 1261.2134928712592
Gr1_1_2 0 s1 x1_a2 0 9.047031752491817e+17
Gr2_1_2 0 s1 x2_a2 0 -6.214386941326194e+17
Gr3_1_2 0 s1 x3_a2 0 -3.327847370636058e+17
Gr4_re_1_2 0 s1 x4_re_a2 0 2579614107340.5522
Gr4_im_1_2 0 s1 x4_im_a2 0 -6754782591310.556
Gr5_re_1_2 0 s1 x5_re_a2 0 8816023218472.627
Gr5_im_1_2 0 s1 x5_im_a2 0 207603556397.80118
Gr6_1_2 0 s1 x6_a2 0 1.7183414839248538e+17
Gr7_re_1_2 0 s1 x7_re_a2 0 4535416696753885.0
Gr7_im_1_2 0 s1 x7_im_a2 0 -4470129761730050.5
Gr8_re_1_2 0 s1 x8_re_a2 0 -2301290569590205.0
Gr8_im_1_2 0 s1 x8_im_a2 0 -282697163161526.6
Gr9_1_2 0 s1 x9_a2 0 1.1356879316997186e+20
Gr10_1_2 0 s1 x10_a2 0 -4.915227116911354e+18
Gr11_1_2 0 s1 x11_a2 0 -1.442659100302656e+19
Gr12_1_2 0 s1 x12_a2 0 3.234038584155603e+19
Gr13_1_2 0 s1 x13_a2 0 2.6230825215492813e+17
Gr14_1_2 0 s1 x14_a2 0 -1.3773562501066285e+20
Gr15_1_2 0 s1 x15_a2 0 -1.4978316473881268e+19
Gr16_1_2 0 s1 x16_a2 0 -3.725972204050928e+18
Gr17_1_2 0 s1 x17_a2 0 -2.2079273588650079e+18
Gr18_1_2 0 s1 x18_a2 0 5.19954444934787e+18
Gr19_1_2 0 s1 x19_a2 0 -1929663024673505.0
Gr20_1_2 0 s1 x20_a2 0 4.107788287561408e+19
Gr21_1_2 0 s1 x21_a2 0 -5.691125410457943e+19
Gr22_1_2 0 s1 x22_a2 0 3.7230403713836245e+19
Gr23_1_2 0 s1 x23_a2 0 -2.439535133715237e+19
Gr24_1_2 0 s1 x24_a2 0 3.1190909073916793e+19
Gr25_1_2 0 s1 x25_a2 0 -6.092123175397429e+18
Gr26_1_2 0 s1 x26_a2 0 2.323282310581917e+18
Gr27_1_2 0 s1 x27_a2 0 -318609160199661.9
Gr28_1_2 0 s1 x28_a2 0 2201518195455729.2
Gr29_1_2 0 s1 x29_a2 0 1123087608094761.4
Gr30_1_2 0 s1 x30_a2 0 -1.8385709170212598e+17
Gr31_1_2 0 s1 x31_a2 0 2.690715652435335e+18
Gr32_1_2 0 s1 x32_a2 0 -4.399411342543342e+17
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.1509834756870174e-11
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.048968478574458e-11
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 3.5430881960083934e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.2924332566111605e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 19165221301.714764
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -19165221301.714764
Rp4_im_im_a1 0 x4_im_a1 1.2924332566111605e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.6340061035084362e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 15141934858.792889
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -15141934858.792889
Rp5_im_im_a1 0 x5_im_a1 1.6340061035084362e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 6.425746135114906e-11
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.0636755749957502e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 9339449929.251932
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -9339449929.251932
Rp7_im_im_a1 0 x7_im_a1 1.0636755749957502e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.254405615556517e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 9197848816.013372
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -9197848816.013372
Rp8_im_im_a1 0 x8_im_a1 1.254405615556517e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.6753200119511032e-10
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.263941609539556e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 2.749817274405803e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 1.4754787459648043e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 3.6664979867191035e-10
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 1.6331042518590575e-10
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 5.540769547167987e-10
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 2.166858391425906e-10
Cx17_a1 x17_a1 0 1.0
Gx17_a1 0 x17_a1 p1 0 0.07071067811865475
Fx17_a1 0 x17_a1 V1 3.5355339059327378
Rp17_a1 0 x17_a1 9.343609857241145e-10
Cx18_a1 x18_a1 0 1.0
Gx18_a1 0 x18_a1 p1 0 0.07071067811865475
Fx18_a1 0 x18_a1 V1 3.5355339059327378
Rp18_a1 0 x18_a1 2.767460710715619e-10
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 2.693255180899401e-09
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 3.08632776669846e-10
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 3.372968360307935e-10
Cx22_a1 x22_a1 0 1.0
Gx22_a1 0 x22_a1 p1 0 0.07071067811865475
Fx22_a1 0 x22_a1 V1 3.5355339059327378
Rp22_a1 0 x22_a1 3.7944464571182965e-10
Cx23_a1 x23_a1 0 1.0
Gx23_a1 0 x23_a1 p1 0 0.07071067811865475
Fx23_a1 0 x23_a1 V1 3.5355339059327378
Rp23_a1 0 x23_a1 4.522634194246452e-10
Cx24_a1 x24_a1 0 1.0
Gx24_a1 0 x24_a1 p1 0 0.07071067811865475
Fx24_a1 0 x24_a1 V1 3.5355339059327378
Rp24_a1 0 x24_a1 5.20868620371062e-10
Cx25_a1 x25_a1 0 1.0
Gx25_a1 0 x25_a1 p1 0 0.07071067811865475
Fx25_a1 0 x25_a1 V1 3.5355339059327378
Rp25_a1 0 x25_a1 5.507248109222323e-10
Cx26_a1 x26_a1 0 1.0
Gx26_a1 0 x26_a1 p1 0 0.07071067811865475
Fx26_a1 0 x26_a1 V1 3.5355339059327378
Rp26_a1 0 x26_a1 6.420911470703738e-10
Cx27_a1 x27_a1 0 1.0
Gx27_a1 0 x27_a1 p1 0 0.07071067811865475
Fx27_a1 0 x27_a1 V1 3.5355339059327378
Rp27_a1 0 x27_a1 2.50223270843608e-09
Cx28_a1 x28_a1 0 1.0
Gx28_a1 0 x28_a1 p1 0 0.07071067811865475
Fx28_a1 0 x28_a1 V1 3.5355339059327378
Rp28_a1 0 x28_a1 2.6776738785484534e-09
Cx29_a1 x29_a1 0 1.0
Gx29_a1 0 x29_a1 p1 0 0.07071067811865475
Fx29_a1 0 x29_a1 V1 3.5355339059327378
Rp29_a1 0 x29_a1 1.4797263931586674e-09
Cx30_a1 x30_a1 0 1.0
Gx30_a1 0 x30_a1 p1 0 0.07071067811865475
Fx30_a1 0 x30_a1 V1 3.5355339059327378
Rp30_a1 0 x30_a1 1.0374887216340965e-09
Cx31_a1 x31_a1 0 1.0
Gx31_a1 0 x31_a1 p1 0 0.07071067811865475
Fx31_a1 0 x31_a1 V1 3.5355339059327378
Rp31_a1 0 x31_a1 9.474831483723407e-10
Cx32_a1 x32_a1 0 1.0
Gx32_a1 0 x32_a1 p1 0 0.07071067811865475
Fx32_a1 0 x32_a1 V1 3.5355339059327378
Rp32_a1 0 x32_a1 9.328200017489538e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 25.22426985742518
Fd2_1 0 s2 V1 1261.2134928712592
Gr1_2_1 0 s2 x1_a1 0 9.047031548231855e+17
Gr2_2_1 0 s2 x2_a1 0 -6.214386805850769e+17
Gr3_2_1 0 s2 x3_a1 0 -3.3278472857771514e+17
Gr4_re_2_1 0 s2 x4_re_a1 0 2579613679196.6807
Gr4_im_2_1 0 s2 x4_im_a1 0 -6754782578367.595
Gr5_re_2_1 0 s2 x5_re_a1 0 8816022793438.42
Gr5_im_2_1 0 s2 x5_im_a1 0 207603037376.84863
Gr6_2_1 0 s2 x6_a1 0 1.7183414110503114e+17
Gr7_re_2_1 0 s2 x7_re_a1 0 4535416345292138.0
Gr7_im_2_1 0 s2 x7_im_a1 0 -4470129634699234.0
Gr8_re_2_1 0 s2 x8_re_a1 0 -2301290442308017.5
Gr8_im_2_1 0 s2 x8_im_a1 0 -282697087702484.7
Gr9_2_1 0 s2 x9_a1 0 1.1356878717684769e+20
Gr10_2_1 0 s2 x10_a1 0 -4.915226843867186e+18
Gr11_2_1 0 s2 x11_a1 0 -1.442659003256473e+19
Gr12_2_1 0 s2 x12_a1 0 3.234038405655456e+19
Gr13_2_1 0 s2 x13_a1 0 2.623085058841085e+17
Gr14_2_1 0 s2 x14_a1 0 -1.3773561764543393e+20
Gr15_2_1 0 s2 x15_a1 0 -1.4978316034198807e+19
Gr16_2_1 0 s2 x16_a1 0 -3.7259721049210153e+18
Gr17_2_1 0 s2 x17_a1 0 -2.207927237528377e+18
Gr18_2_1 0 s2 x18_a1 0 5.199544298537359e+18
Gr19_2_1 0 s2 x19_a1 0 -1929661470861720.2
Gr20_2_1 0 s2 x20_a1 0 4.107788018600312e+19
Gr21_2_1 0 s2 x21_a1 0 -5.691125097926879e+19
Gr22_2_1 0 s2 x22_a1 0 3.723040175737841e+19
Gr23_2_1 0 s2 x23_a1 0 -2.4395350456845656e+19
Gr24_2_1 0 s2 x24_a1 0 3.11909081895051e+19
Gr25_2_1 0 s2 x25_a1 0 -6.092123063047192e+18
Gr26_2_1 0 s2 x26_a1 0 2.323282251549284e+18
Gr27_2_1 0 s2 x27_a1 0 -318608931864386.6
Gr28_2_1 0 s2 x28_a1 0 2201516438561702.8
Gr29_2_1 0 s2 x29_a1 0 1123087326825799.5
Gr30_2_1 0 s2 x30_a1 0 -1.838570749133399e+17
Gr31_2_1 0 s2 x31_a1 0 2.6907154721263483e+18
Gr32_2_1 0 s2 x32_a1 0 -4.3994108647923866e+17
Gd2_2 0 s2 p2 0 31.573703273682373
Fd2_2 0 s2 V2 1578.6851636841186
Gr1_2_2 0 s2 x1_a2 0 1.1682020933713262e+18
Gr2_2_2 0 s2 x2_a2 0 -8.016738033032975e+17
Gr3_2_2 0 s2 x3_a2 0 -4.312088164701985e+17
Gr4_re_2_2 0 s2 x4_re_a2 0 3904008094471.33
Gr4_im_2_2 0 s2 x4_im_a2 0 -8673547867825.379
Gr5_re_2_2 0 s2 x5_re_a2 0 11912151584314.354
Gr5_im_2_2 0 s2 x5_im_a2 0 914040812095.2472
Gr6_2_2 0 s2 x6_a2 0 2.26657059599822e+17
Gr7_re_2_2 0 s2 x7_re_a2 0 6159639199835690.0
Gr7_im_2_2 0 s2 x7_im_a2 0 -5859214170333241.0
Gr8_re_2_2 0 s2 x8_re_a2 0 -3077015040175779.5
Gr8_im_2_2 0 s2 x8_im_a2 0 -426725332808095.1
Gr9_2_2 0 s2 x9_a2 0 1.5387584904152007e+20
Gr10_2_2 0 s2 x10_a2 0 -6.592580539393423e+18
Gr11_2_2 0 s2 x11_a2 0 -1.9271833652566295e+19
Gr12_2_2 0 s2 x12_a2 0 4.358449824171035e+19
Gr13_2_2 0 s2 x13_a2 0 6.652972478391514e+17
Gr14_2_2 0 s2 x14_a2 0 -1.8638861013256002e+20
Gr15_2_2 0 s2 x15_a2 0 -2.0718556047500284e+19
Gr16_2_2 0 s2 x16_a2 0 -5.203155919292558e+18
Gr17_2_2 0 s2 x17_a2 0 -3.066935067595869e+18
Gr18_2_2 0 s2 x18_a2 0 7.204095009368566e+18
Gr19_2_2 0 s2 x19_a2 0 -2833489949317500.5
Gr20_2_2 0 s2 x20_a2 0 5.500319231371681e+19
Gr21_2_2 0 s2 x21_a2 0 -7.693194752917584e+19
Gr22_2_2 0 s2 x22_a2 0 5.0417879714288845e+19
Gr23_2_2 0 s2 x23_a2 0 -3.3489266900416643e+19
Gr24_2_2 0 s2 x24_a2 0 4.314532210887645e+19
Gr25_2_2 0 s2 x25_a2 0 -8.516436107457704e+18
Gr26_2_2 0 s2 x26_a2 0 3.245592439731469e+18
Gr27_2_2 0 s2 x27_a2 0 -467043215016167.06
Gr28_2_2 0 s2 x28_a2 0 3232252385896110.0
Gr29_2_2 0 s2 x29_a2 0 1622163166265687.0
Gr30_2_2 0 s2 x30_a2 0 -2.6213395205284576e+17
Gr31_2_2 0 s2 x31_a2 0 3.816067252626738e+18
Gr32_2_2 0 s2 x32_a2 0 -6.861645413577601e+17
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.1509834756870174e-11
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.048968478574458e-11
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 3.5430881960083934e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.2924332566111605e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 19165221301.714764
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -19165221301.714764
Rp4_im_im_a2 0 x4_im_a2 1.2924332566111605e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.6340061035084362e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 15141934858.792889
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -15141934858.792889
Rp5_im_im_a2 0 x5_im_a2 1.6340061035084362e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 6.425746135114906e-11
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.0636755749957502e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 9339449929.251932
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -9339449929.251932
Rp7_im_im_a2 0 x7_im_a2 1.0636755749957502e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.254405615556517e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 9197848816.013372
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -9197848816.013372
Rp8_im_im_a2 0 x8_im_a2 1.254405615556517e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.6753200119511032e-10
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.263941609539556e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 2.749817274405803e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 1.4754787459648043e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 3.6664979867191035e-10
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 1.6331042518590575e-10
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 5.540769547167987e-10
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 2.166858391425906e-10
Cx17_a2 x17_a2 0 1.0
Gx17_a2 0 x17_a2 p2 0 0.07071067811865475
Fx17_a2 0 x17_a2 V2 3.5355339059327378
Rp17_a2 0 x17_a2 9.343609857241145e-10
Cx18_a2 x18_a2 0 1.0
Gx18_a2 0 x18_a2 p2 0 0.07071067811865475
Fx18_a2 0 x18_a2 V2 3.5355339059327378
Rp18_a2 0 x18_a2 2.767460710715619e-10
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 2.693255180899401e-09
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 3.08632776669846e-10
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 3.372968360307935e-10
Cx22_a2 x22_a2 0 1.0
Gx22_a2 0 x22_a2 p2 0 0.07071067811865475
Fx22_a2 0 x22_a2 V2 3.5355339059327378
Rp22_a2 0 x22_a2 3.7944464571182965e-10
Cx23_a2 x23_a2 0 1.0
Gx23_a2 0 x23_a2 p2 0 0.07071067811865475
Fx23_a2 0 x23_a2 V2 3.5355339059327378
Rp23_a2 0 x23_a2 4.522634194246452e-10
Cx24_a2 x24_a2 0 1.0
Gx24_a2 0 x24_a2 p2 0 0.07071067811865475
Fx24_a2 0 x24_a2 V2 3.5355339059327378
Rp24_a2 0 x24_a2 5.20868620371062e-10
Cx25_a2 x25_a2 0 1.0
Gx25_a2 0 x25_a2 p2 0 0.07071067811865475
Fx25_a2 0 x25_a2 V2 3.5355339059327378
Rp25_a2 0 x25_a2 5.507248109222323e-10
Cx26_a2 x26_a2 0 1.0
Gx26_a2 0 x26_a2 p2 0 0.07071067811865475
Fx26_a2 0 x26_a2 V2 3.5355339059327378
Rp26_a2 0 x26_a2 6.420911470703738e-10
Cx27_a2 x27_a2 0 1.0
Gx27_a2 0 x27_a2 p2 0 0.07071067811865475
Fx27_a2 0 x27_a2 V2 3.5355339059327378
Rp27_a2 0 x27_a2 2.50223270843608e-09
Cx28_a2 x28_a2 0 1.0
Gx28_a2 0 x28_a2 p2 0 0.07071067811865475
Fx28_a2 0 x28_a2 V2 3.5355339059327378
Rp28_a2 0 x28_a2 2.6776738785484534e-09
Cx29_a2 x29_a2 0 1.0
Gx29_a2 0 x29_a2 p2 0 0.07071067811865475
Fx29_a2 0 x29_a2 V2 3.5355339059327378
Rp29_a2 0 x29_a2 1.4797263931586674e-09
Cx30_a2 x30_a2 0 1.0
Gx30_a2 0 x30_a2 p2 0 0.07071067811865475
Fx30_a2 0 x30_a2 V2 3.5355339059327378
Rp30_a2 0 x30_a2 1.0374887216340965e-09
Cx31_a2 x31_a2 0 1.0
Gx31_a2 0 x31_a2 p2 0 0.07071067811865475
Fx31_a2 0 x31_a2 V2 3.5355339059327378
Rp31_a2 0 x31_a2 9.474831483723407e-10
Cx32_a2 x32_a2 0 1.0
Gx32_a2 0 x32_a2 p2 0 0.07071067811865475
Fx32_a2 0 x32_a2 V2 3.5355339059327378
Rp32_a2 0 x32_a2 9.328200017489538e-10
.ENDS s_equivalent
